US04997947
Preparation of 6-phenoxymethylpyridine-2,3-dicarboxylic acid anhydride
30 g of 6-phenoxymethylpyridine-2,3-dicarboxylic acid are added to a mixture of 100 ml of dimethoxyethane, 28 ml of acetic anhydride and 15 ml of pyridine while stirring and the reaction mixture is further stirred for one hour at room temperature. The whole is then concentrated by evaporation under a high vacuum. The above anhydride remains in the form of a light-coloured oil.

reactant | 6-phenoxymethylpyridine-2,3-dicarboxylic acid | 30 g | O(C1=CC=CC=C1)CC1=CC=C(C(=N1)C(=O)O)C(=O)O | C14H11NO5
reactant | dimethoxyethane | 100 ml | C(OC)COC | C4H10O2
reactant | acetic anhydride | 28 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 15 ml | N1=CC=CC=C1 | C5H5N
product | 6-phenoxymethylpyridine-2,3-dicarboxylic acid anhydride | O(C1=CC=CC=C1)CC1=CC=C2C(=N1)C(=O)OC2=O | C14H9NO4
